* A dual opamp ngspice model
* file name: TLV2372-dual.lib
.subckt TLV2372D 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include TLV2372.LIB
XU1A 1in+ 1in- vcc+ vcc- 1out TLV2372
XU1B 2in+ 2in- vcc+ vcc- 2out TLV2372
.ends
